US07582638B2
Place EDCI (0.147 g, 0.77 mmol), HOBt (0.10 g, 0.77 mmol), 1-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-[1-(piperidin-4-yloxy)-isoquinolin-4-yl]-urea dihydrochloride (Preparation 3, 0.16 g, 0.64 mmol) and 1-methyl-1-cyclopropyl carboxylic acid (1.1 eq) in a flask under N2. Add dichloromethane (5 mL) follow by DIPEA (0.22 mL, 1.28 mmol) and stir at room temperature overnight. Evaporate solvent to give a residue. Subject residue to silica gel chromatography eluting with hexane:AcOEt 50-100% to give 1-{1-[1-(1-methyl-cyclopropanecarbonyl)-piperidin-4-yloxy]-isoquinolin-4-yl}-3-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea as a free base. ES+ (m/z) 579.3 (M+H).

reactant | EDCI | 0.77 mmol, 0.147 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.77 mmol, 0.10 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-[1-(piperidin-4-yloxy)-isoquinolin-4-yl]-urea dihydrochloride | 0.64 mmol, 0.16 g | Cl.Cl.CC1(CC1)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC1=CN=C(C2=CC=CC=C12)OC1CCNCC1
reactant | 1-methyl-1-cyclopropyl carboxylic acid | 1.1 eq | CC1(CC1)C(=O)O | C5H8O2
reactant | DIPEA | 1.28 mmol, 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-{1-[1-(1-methyl-cyclopropanecarbonyl)-piperidin-4-yloxy]-isoquinolin-4-yl}-3-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea | CC1(CC1)C(=O)N1CCC(CC1)OC1=NC=C(C2=CC=CC=C12)NC(=O)NC=1N(N=C(C1)C1(CC1)C)C1=CC=C(C=C1)C | C34H38N6O3
